US08530648B2
a) 1,9-diazaspiro[5.5]undecan-2-one (TFA Salt)
To a solution of tert-butyl 2-oxo-1,9-diazaspiro[5.5]undecane-9-carboxylate [1031927-12-4] (920 mg, 3.26 mmol) in dichloromethane (10 mL) was added TFA (2.53 mL, 32.6 mmol). The solution was stirred for 40 min at rt. After completion of the reaction the mixture was evaporated under reduced pressure and dried under high vacuum (1.90 g, 100%). [1H NMR (400 MHz, DMSO-d6) ♀ ppm 8.59-8.35 (m, 2H), 7.83 (s, 1H), 3.27-3.14 (m, 2H), 3.12-2.98 (m, 2H), 2.17-2.04 (m, 2H), 1.80-1.57 (m, 8H); LCMS RtA=0.20 min, [M+H]+=169.2].

reactant | tert-butyl 2-oxo-1,9-diazaspiro[5.5]undecane-9-carboxylate | 3.26 mmol, 920 mg | O=C1NC2(CCC1)CCN(CC2)C(=O)OC(C)(C)C | C14H24N2O3
reactant | TFA | 32.6 mmol, 2.53 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1,9-diazaspiro[5.5]undecan-2-one | N1C(CCCC12CCNCC2)=O | C9H16N2O
